US06867205B2
5-Aminomethyl-2-benzo[b]thiophen-2-yl-6-(2,4-dichloro-phenyl)-pyrimidin-4-ylamine
The title compound, MS: m/e=400.9 (M+H+), was prepared from benzo[b]thiophene-2-carboxamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | benzo[b]thiophene-2-carboxamidine | S1C2=C(C=C1C(=N)N)C=CC=C2 | C9H8N2S
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-2-benzo[b]thiophen-2-yl-6-(2,4-dichloro-phenyl)-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)C1=CC2=C(S1)C=CC=C2)N | C19H14Cl2N4S
